US06133294
3-(3-Chloro-2-methylthio-5-pyridyl)-5-ethylisoxazole
3-(2,3-Dichloro-5-pyridyl)-5-ethylisoxazole (0.71 g, 2.9 mmol) was dissolved in t-butanol (15 mL) and sodium methanethiolate (0.3 g, 4.3 mmol) added. The reaction mixture was heated under reflux with stirring for 3 hours, cooled, and poured onto ice. The resulting cream precipitate was collected by filtration, dissolved in dichloromethane (50 mL) and dried over anhydrous sodium sulphate. Evaporation of the solvent under reduced pressure gave the desired product (0.61 g, 83%) as a cream solid, melting point. 59-62° C.

reactant | 3-(2,3-Dichloro-5-pyridyl)-5-ethylisoxazole | 2.9 mmol, 0.71 g | ClC1=NC=C(C=C1Cl)C1=NOC(=C1)CC | C10H8Cl2N2O
reactant | sodium methanethiolate | 4.3 mmol, 0.3 g | C[S-].[Na+]
solvent | t-butanol | 15 mL | C(C)(C)(C)O | C4H10O
product | 3-(3-Chloro-2-methylthio-5-pyridyl)-5-ethylisoxazole | 0.61 g, 83% | ClC=1C(=NC=C(C1)C1=NOC(=C1)CC)SC | C11H11ClN2OS
